US07989454B2
Step 2: 4-[3-Hept-6-ynyl-2-(2-methoxycarbonyl-ethyl)-phenoxy]-butyric acid methyl ester
To a solution of 4-[2-(2-ethoxycarbonyl-ethyl)-3-(6-oxo-hexyl)-phenoxy]-butyric acid ethyl ester (7.0 g, 17.24 mmol) was added a solution of potassium carbonate (7.14 g, 51.72 mmol) in MeOH (200 mL) and the resulting mixture was cooled to 0° C. Then the Ohira's reagent (ref. cited in Synlett, 1996, 521) (6.3 g, 32.8 mmol) in MeOH (50 mL) was added slowly. The cooling bath was removed upon the end of addition and the reaction mixture was stirred at room temperature for 5 hr. The reaction was then extracted into ethyl acetate and washed with brine. The combined organic extracts were dried over sodium sulfate and concentrated under reduced pressure. The crude material was purified by column chromatography using 50% ethyl acetate-hexanes as eluant to give the title compound (4.6 g, 71%) as a light yellow oil.

reactant | 4-[2-(2-ethoxycarbonyl-ethyl)-3-(6-oxo-hexyl)-phenoxy]-butyric acid ethyl ester | 17.24 mmol, 7.0 g | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCC=O)CCC(=O)OCC)=O | C23H34O6
reactant | potassium carbonate | 51.72 mmol, 7.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ohira's reagent | 32.8 mmol, 6.3 g | C/C(=C(\[N+]#N)/P(=O)(OC)OC)/[O-] | C5H9N2O4P
solvent | MeOH | 200 mL | CO | CH4O
solvent | MeOH | 50 mL | CO | CH4O
product | 4-[3-Hept-6-ynyl-2-(2-methoxycarbonyl-ethyl)-phenoxy]-butyric acid methyl ester | 4.6 g, 71% | COC(CCCOC1=C(C(=CC=C1)CCCCCC#C)CCC(=O)OC)=O | C22H30O5
